US08648066B2
To a cooled (0° C.) solution of 5-bromopyridine-2,3-diamine (5.0 g, 27 mmol) in NMP (20 mL) was added isothiocyanatoethane (2.3 mL, 26 mmol). The resulting solution was heated (65° C.) for four hours and then cooled to ambient temperature before 1,3-diisopropylcarbodiimide (4.2 mL, 27 mmol) was added. The reaction mixture was stirred for 18 hours, diluted with water and the resulting suspension was collected by filtration. Trituration with ethyl acetate provided 6-bromo-N-ethyl-3H-imidazo[4,5-b]pyridin-2-amine (4.8 g, 75% yield) as a brown solid. 1H NMR (400 MHz, d6-DMSO) δ 11.41 (bs, 1H), 7.91 (s, 1H), 7.53 (s, 1H), 7.17 (s, 1H), 3.33 (q, 2H), 1.17 (t, 3H); MS (ES) for C8H9BrN4: 241 (MH+).

reactant | 5-bromopyridine-2,3-diamine | 27 mmol, 5.0 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | isothiocyanatoethane | 26 mmol, 2.3 mL | N(=C=S)CC | C3H5NS
reactant | 1,3-diisopropylcarbodiimide | 27 mmol, 4.2 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 6-bromo-N-ethyl-3H-imidazo[4,5-b]pyridin-2-amine | 4.8 g, 75% yield | BrC=1C=C2C(=NC1)NC(=N2)NCC | C8H9BrN4
